US07598264B2
Methyl 6-(3-chloro-4-fluorobenzyl)-4-hydroxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate
To a solution of methyl 6-(3-chloro-4-fluorobenzyl)-3,4-dihydroxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate (18.00 g, 47 mmol) in DMF (200 mL) was added magnesium methylate (96.08 mL, 95 mmol), and the reaction was warmed for 1 hour and cooled. The reaction was treated with iodomethane (17.66 mL, 283 mmol) and stirred at 45° C. overnight. At this time, LCMS showed the reaction incomplete, and an additional equivalent of iodomethane (2.95 mL, 48 mmol) was added. The reaction was again stirred for 4 hours. The solvent was removed in vacuo, and the resulting oil was partitioned between chloroform and 1N HCl. The aqueous layer was washed twice more with chloroform. The organic fractions were extracted with 10% sodium bisulfite, and the bisulfite layer was washed twice with chloroform. The combined organic layers were washed with 5% aqueous HCl and brine, dried over sodium sulfate and concentrated in vacuo to afford the product as a black oil. This material appears quite clean by NMR and HPLC, but is highly colored.

reactant | methyl 6-(3-chloro-4-fluorobenzyl)-3,4-dihydroxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate | 47 mmol, 18.00 g | ClC=1C=C(CN2C(C=3C(=C(N=C(C3CC2)C(=O)OC)O)O)=O)C=CC1F | C17H14ClFN2O5
reactant | magnesium methylate | 95 mmol, 96.08 mL | C[O-].C[O-].[Mg+2]
reactant | iodomethane | 283 mmol, 17.66 mL | IC | CH3I
reactant | iodomethane | 48 mmol, 2.95 mL | IC | CH3I
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | Methyl 6-(3-chloro-4-fluorobenzyl)-4-hydroxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate | ClC=1C=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)OC)C)=O)O)=O)C=CC1F | C18H16ClFN2O5
